US06908913B2
b) (1S,5R,6S)-2-[7-[1-(3-Aminopropyl)-5-carboxypyridinium-3-yl]carbonylimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate (intramolecular salt, hydrochloride)
The title compound (11.5 mg) was prepared in the same manner as in steps a) and b) of Example 4, except that 97.2 mg of 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-[7-[5-(4-nitrobenzyloxycarbonyl)pyridin-3-yl]carbonylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate and 27.0 mg of 3-azido-1-propanol were used as the starting compounds.

reactant | 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-[7-[5-(4-nitrobenzyloxycarbonyl)pyridin-3-yl]carbonylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate | 97.2 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)C(=O)C=3C=NC=C(C3)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C36H28N6O11S
reactant | 3-azido-1-propanol | 27.0 mg | N(=[N+]=[N-])CCCO | C3H7N3O
product | (1S,5R,6S)-2-[7-[1-(3-Aminopropyl)-5-carboxypyridinium-3-yl]carbonylimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 11.5 mg | NCCC[N+]1=CC(=CC(=C1)C(=O)O)C(=O)C=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)[O-])C([C@@H]1[C@@H](C)O)=O)C | C25H25N5O7S
